US03983133
To a stirred solution of 13.9 parts of 2.4'-dibromoacetophenone in 120 parts of acetone are added portionwise 8.75 parts of 2-(N-benzylamino)-2-imidazoline. Upon completion, stirring is continued for 2 days at room temperature. The precipitated product is filtered off, washed with acetone, dried and crystallized from ethanol, yielding 2-[N-benzyl-N-(2-imidazolin-2-yl)amino]-4'-bromo-acetophenone hydrobromide, m.p. 262.9°C.

reactant | 2.4'-dibromoacetophenone | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | 2-(N-benzylamino)-2-imidazoline | C(C1=CC=CC=C1)NC=1NCCN1 | C10H13N3
solvent | acetone | CC(=O)C | C3H6O
product | 2-[N-benzyl-N-(2-imidazolin-2-yl)amino]-4'-bromo-acetophenone hydrobromide | Br.C(C1=CC=CC=C1)N(C=1NCCN1)CC(=O)C1=CC=C(C=C1)Br | InChI=1S/C18H18BrN3O.BrH/c19-16-8-6-15(7-9-16)17(23)13-22(18-20-10-11-21-18)12-14-4-2-1-3-5-14;/h1-9H,10-13H2,(H,20,21);1H
